US06689770B2
To the solution of 3-(trifluoromethyl)-l-(3-cyanophenyl)-1H-pyrazolecarboxylic acid (0.1 g, 0.3 mmol) in dry acetonitrile (10 mL) was added thionyl chloride (0.15 mL, 1.8 mmol). The reaction mixture was warmed up at 50 C for 1 h. The solvent and excess of thionyl chloride were removed under reduced pressure and dried on a vacuum pump over 18 h. To this dried resudue was added a mixture of 1,1-dimethylethyl-7-(4-aminophenyl)-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide (0.1 g, 0.3 mmol) and DMAP (0.13 g, 1.8 mmol) in dry methylene chloride (10 mL). The reaction mixture was allowed to stir at ambient temperature for 18 h, then concentrated and purified by flash chromatography (ethyl acetate/hexane, 1:1) to afford the intermediate product. This material was reduced under an atmosphere of hydrogen gas (55 psi) in methanol (5 mL) and trifluoroacetic acid (5 mL) in the presence of 10% palladium on carbon catalyst (15 mg) over a period of 18 h at ambient temperature. The reaction mixture was filtered over a pad of Celite and washed with methanol (5 mL×3). The residue was purified by HPLC utilizing gradient elution with a mixture of water: acetonitrile with 0.05% of trifluoroacetic acid on a reverse phase C1-8 (60 angstrom) column to give 1,1-dimethylethyl 7-[4-[[[1-[3-(aminomethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl]amino]phenyl]-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide (32 mg, 15%). LRMS (ES+): 628.3 (M+H)+.

reactant | 3-(trifluoromethyl)-l-(3-cyanophenyl)-1H-pyrazolecarboxylic acid | 0.3 mmol, 0.1 g | FC(C1(NN(C=C1)C1=CC(=CC=C1)C#N)C(=O)O)(F)F | C12H8F3N3O2
reactant | thionyl chloride | 1.8 mmol, 0.15 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1,1-dimethylethyl-7-(4-aminophenyl)-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide | 0.3 mmol, 0.1 g | CC(C)(C)C1N(S(C2=C1C=CC=C2C2=CC=C(C=C2)N)(=O)=O)C(=O)[O-]
reactant | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
catalyst | DMAP | 1.8 mmol, 0.13 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 5 mL | CO | CH4O
catalyst | palladium on carbon | 15 mg | [Pd] | Pd
product | 1,1-dimethylethyl 7-[4-[[[1-[3-(aminomethyl)phenyl]-3-(trifluoromethyl)-1H-pyrazol-5-yl]carbonyl]amino]phenyl]-1,2-benzisothiazole-2(3H)-carboxylate 1,1-dioxide | 32 mg, 15% | NCC=1C=C(C=CC1)N1N=C(C=C1C(=O)NC1=CC=C(C=C1)C1=CC=CC=2CN(S(C21)(=O)=O)C(=O)OC(C)(C)C)C(F)(F)F | C30H28F3N5O5S
